US05218109
In 2 ml of ethanol was dissolved 100 mg of 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde . Then, under ice-cooling, 20 mg of sodium borohydride was added and the reaction mixture was stirred for 30 minutes. The reaction mixture was neutralized with diluted hydrochloric acid under ice-cooling and, after diluted with water, extracted with diethyl ether. The extract was serially washed with aqueous sodium hydrogen carbonate solution and aqueous sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 83 mg of 20-methyl-1α,3β-bis)methoxycarbonyloxy)pregna-5,7-dien-21-ol.

reactant | 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde | 100 mg | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C26H36O7
reactant | sodium borohydride | 20 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | pregna-5,7-dien-21-ol | C(C[C@H]1CC[C@H]2C3=CC=C4CCCC[C@]4(C)[C@H]3CC[C@]12C)O | C21H32O
